US08258097B2
(S)-3-(4-benzyloxy-3-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid (1.23 mmol) was dissolved in DMF (5 ml). EDCI (2 mmol) was added followed by HOBT (1 mmol) and methylamine hydrochloride (2 mmol). N,N-Diisopropylethylamine (2 mmol) was added and the solution was stirred at room temperature for 5 hours. The solution was diluted with water and ethyl acetate. The ethyl acetate extract was washed with dil HCl, with water and with brine. Drying (MgSO4) and evaporation gave the crude product which crystallised from ethyl acetate-hexane (1:1). [(S)-2-(4-Benzyloxy-3-hydroxy-phenyl)-1-methylcarbamoyl-ethyl]-carbamic acid tert-butyl ester was obtained as a white solid, 348 mg; HPLC/MS retention time 5.22 min, m/z 401 (MH+).

reactant | (S)-3-(4-benzyloxy-3-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid | 1.23 mmol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)O | C21H25NO6
reactant | EDCI | 2 mmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1 mmol | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | methylamine hydrochloride | 2 mmol | Cl.CN
reactant | N,N-Diisopropylethylamine | 2 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(S)-2-(4-Benzyloxy-3-hydroxy-phenyl)-1-methylcarbamoyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC(=C(C=C1)OCC1=CC=CC=C1)O)C(NC)=O)=O | C22H28N2O5
